US04962103
(2R,4R)-1-Benzyloxycarbonyl-2-(3-cyanopropyl)-4-t-butyldimethylsilyloxypyrrolidine (1.69 g) was dissolved in 34 ml of ethanol, and 338 mg of 5% palladium-carbon was added thereto, followed by hydrogenation at room temparature under 1 atm. for 2 hours. The catalyst was removed by filtration, and the filtrate was distilled to obtain (2R,4R)-2-(3-cyanopropyl)-4-t-butyldimethylsilyloxypyrrolidine.

reactant | (2R,4R)-1-Benzyloxycarbonyl-2-(3-cyanopropyl)-4-t-butyldimethylsilyloxypyrrolidine | 1.69 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)CCCC#N | C22H34N2O3Si
solvent | ethanol | 34 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 338 mg | [C].[Pd]
product | (2R,4R)-2-(3-cyanopropyl)-4-t-butyldimethylsilyloxypyrrolidine | C(#N)CCC[C@H]1NC[C@@H](C1)O[Si](C)(C)C(C)(C)C | C14H28N2OSi
